Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
prednisone
 
Attending: ___
 
Chief Complaint:
Dysphagia
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
___ yo F with Afib on Xarelto, h/o H. Pylori presenting with 
dysphagia and globus sensation after dinner concerning for food 
impaction. The patient was eating dinner when she had the sudden 
sensation that her last piece of chicken was stuck in her 
throat. She had the unpleasant sensation that food was stuck in 
her throat, but denies difficulty breathing, chest pain, and 
palpitations. She became very anxious and distressed due to a 
perceived inability to swallow, and her son brought her to the 
ED.

Initially in significant distress in the ED with tachycardia, 
hypertension and tachypnea with mild hypoxia. Given glucagon, 
Ativan, and small sips of ginger ale with slight improvement 
(feels like something is relaxing"), but still feels something 
stuck in chest. Patient reports no history of dysphagia or 
aspiration, though discharge summary at ___ notes 
problems swallowing pills. 

Of note, per the report of her son, the patient has been 
experiencing a general decline in mental status for around the 
past one year, initially beginning after cataract surgery. The 
patient believed she had a bad reaction to prednisolone drops, 
because after receiving them she was confused and very anxious. 
Since then, her son reports that she has episodes of decreased 
recall, heightened anxiety, and poor executive function. He 
thinks her decline has accelerated in the past month, and she 
has required increased healthcare intervention and monitoring. 
The patient reports that her confusion and anxiety has been at 
its worst during the 3 days prior to this current presentation. 
The patient and her son had been discussing a cognitive 
neurology appointment, and had been trying to make an 
appointment with Dr. ___ at ___ (a friend of hers who had 
Parkinsons was treated by him). They do not currently have an 
appointment. Her son reports that the patient is a very cerebral 
person and is distressed by her recent mental status changes.

The patient was admitted to ___ in ___ for 
dizziness, where she was diagnosed with BPPV and started on 
meclizine. She was also offered a pacemaker for intermittent 
episodes of tachycardia and bradycardia, but she declined. 
Imaging of the head was notable only for chronic ischemic 
changes. Thyroid studies within normal limits. After discharge 
she went to a rehab facility for physical therapy before 
returning home.

 In the ED, initial vitals were: 97.1 49 163/99 16 90% RA  
 Labs notable for: Lactate 2.9 and largely normal chem 7 and 
CBC. Does have a UA with 13 reds and 6 whites, few bac.  
 Patient was given: 2L NS and glucagon.  
 Chest xray showed Streaky left basilar opacity, potentially  
 GI was consulted and recommended: scope in the AM  
 Vitals prior to transfer: 78 121/83 16 99% RA  
 On the floor, pt is comfortable and in NAD.  
 
Past Medical History:
1.  Atrial fibrillation with long-term anticoagulation use on 
rivaroxaban.
      2.  Benign paroxysmal positional vertigo.
      3.  Status post right hip replacement.
      4.  History of cholecystectomy.
      5.  History of appendectomy.
      6.  History of total hip replacement.
      7.  History of thyroidectomy in the remote past.
      8.  H. pylori 
 
Social History:
___
Family History:
Poor historian about family history.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=====================
Vital Signs: 78 121/83 16 99% RA   
 General: Thin woman lying comfortably in bed, oriented, no 
acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: irreg irreg , normal S1 + S2, no murmurs, rubs, gallops  
 Lungs: Bibasilar crackles.  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred. 

DISCHARGE PHYSICAL EXAM
=====================
VS: VSS
General: Thin woman lying comfortably in bed, oriented, no acute 
distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: irreg irreg , normal S1 + S2, no murmurs, rubs, gallops  
 Lungs: Bibasilar crackles.  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.
 
Pertinent Results:
ADMISSION LABS
=======================
___ 10:57PM BLOOD WBC-7.2 RBC-4.85 Hgb-15.6 Hct-46.9* 
MCV-97 MCH-32.2* MCHC-33.3 RDW-12.9 RDWSD-45.8 Plt ___
___ 01:27PM BLOOD ___ PTT-31.3 ___
___ 10:57PM BLOOD Glucose-114* UreaN-24* Creat-0.8 Na-134 
K-4.7 Cl-96 HCO3-24 AnGap-19
___ 01:27PM BLOOD Calcium-9.1 Phos-2.7 Mg-1.9
___ 01:27PM BLOOD VitB12-1790*
___ 10:57PM BLOOD Lactate-2.9*

DISCHARGE LABS
=======================

___ 05:20AM BLOOD WBC-6.0 RBC-3.96 Hgb-12.7 Hct-39.3 
MCV-99* MCH-32.1* MCHC-32.3 RDW-12.9 RDWSD-47.6* Plt ___
___ 05:20AM BLOOD Glucose-79 UreaN-13 Creat-0.6 Na-136 
K-4.1 Cl-102 HCO3-25 AnGap-13
___ 05:20AM BLOOD Calcium-8.9 Phos-2.7 Mg-1.8
___ 05:20AM BLOOD ___ Titer-1:40
___ 05:20AM BLOOD RheuFac-<10
___ 03:31PM BLOOD Lactate-1.0
Test                          Result              Reference 
Range/Units
SJOGREN'S ANTIBODY (SS-A)     <1.0 NEG            <1.0 NEG AI
SJOGREN'S ANTIBODY (SS-B)     <1.0 NEG            <1.0 NEG AI

MICROBIOLOGY
=======================
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING
=======================
CXR ___ IMPRESSION: Streaky left basilar opacity, potentially 
atelectasis.  Moderate cardiomegaly.

PROCEDURES
========================
EGD ___: Food in the lower third of the esophagus (foreign body 
removal)
Dilation at the whole Esophagus
Food in the fundus
Hiatal hernia
Polyps in the stomach body and fundus
Otherwise normal EGD to third part of the duodenum

 
Brief Hospital Course:
This is a ___ year old woman with a history of atrial 
fibrillation (on xarelto) and recent subacute cognitive decline 
presenting after an episode of dysphagia during dinner, 
concerning for food impacted in the esophagus. EGD ___ 
confirming food impaction, and also showing tortuosity and 
dilation. Per GI, esophageal dilation is likely ___ poor 
motility of aging. Patient was evaluated by speech and swallow, 
and was cleared for regular diet, with modification of moist 
food and avoiding straws. At time of discharge, patient was 
tolerating regular diet and medications without dysphagia. 

 #Globus sensation/Dysphagia after eating: Patient presenting 
with feeling of food stuck in her throat She was evaluated by 
GI, who recommended EGD. EGD ___ confirming food impaction and 
showing mild esophageal dilation and tortuosity, likely ___ poor 
motility of aging. GI suspicion for rheumatological cause of 
esophageal dilation was low; ___ was mildly positive at 1:40, 
Sjogren's antibodies were negative. Speech and swallow saw the 
patient and recommended regular diet with care to moisten food 
and avoid tough food. She was tolerating food, drink, and 
medications PO without difficulty by discharge.

 #Anxiety, confusion: Patient and son endorse recent episodes of 
confusion, anxiety, and decreased executive function that is 
significantly different from the patient's baseline. Patient 
reports timeline of 3 days, while son reports more stepwise 
decline over the past year. At ___, imaging of the head 
showed only chronic ischemic changes and thyroid studies were 
within normal limits. Patient takes only multivitamins and 
Xarelto at home and denies substance abuse. Takes B12 at home, 
and B12 level here is 1790. Patient without fevers or infectious 
symptoms, and urine cx with mixed flora consistent with genital 
contamination. Mental status changes may be secondary to 
cognitive decline of aging. Patietn is scheduled to see 
cognitive neurology as an outpatient on ___.

#Elevated lactate: 2.9 on admission. Possibly secondary to mild 
volume depletion/hypoperfusion i/s/o inability to swallow. 
Trended down to 1.0 on ___.

 #A. fib - Xarelto was changed to 15 mg PO daily from 20 mg 
given patient's CrCl.

TRANSITIONAL ISSUES:
[] Speech and swallow recommended moist food and avoiding using 
straws to prevent additional episodes of dysphagia
[] The patient's dose of Xarelto was changed from 20 mg PO daily 
to 15 mg PO daily given creatinine clearance
[] B12 level was checked and was 1790 (above normal). Patient 
can stop taking B12 supplements as an outpatient.
[] Patient can follow-up with gastroenterology non-urgently for 
poor esophageal motility
[] Patient has had recent episodes of confusion and anxiety that 
are very distressing to her. She was recently evaluated 
inpatient at ___ for this including MRI Brain. She has an 
appointment with Dr. ___ on ___ for evaluation of cognitive 
decline. 
# CODE: DNR/DNI - had MOLST form at ___
# CONTACT: ___. ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 20 mg PO DAILY 

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO DINNER 
RX *rivaroxaban [Xarelto] 15 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Dysphagia
Poor esophageal motility

Secondary Diagnosis:
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ due to feeling of food getting stuck 
in your throat. You had an endoscopy by the Gastroenterology 
team who found a piece of chicken in your throat. You were 
evaluated by the Speech and Swallow team who recommended eating 
small, moist pieces of food to prevent this from happening 
again.

We also changed the dose of your Xarelto while you were in the 
hospital; you should take 15mg every night. 

Thank you for letting us be a part of your care!
Your ___ Team
 
Followup Instructions:
___